US05134231
Dimethyl acetonedicarboxylate (50 g; 0.29 mmole) was dissolved in toluene (150 ml), and benzylamine (32.2 g; 0.3 mmole) was added thereto. The resultant mixture was heated under reflux for 30 minutes while elimination of water and then cooled to room temperature. Gaseous ketene was introduced therein. The precipitated crystals were collected by filtration and recrystallized from ethanol to give dimethyl 2-acetyl-3-benzylamino-2-pentenedioate. M.P., 123.5°-124.0° C.

reactant | Dimethyl acetonedicarboxylate | 0.29 mmole, 50 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
reactant | benzylamine | 0.3 mmole, 32.2 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | O | H2O
reactant | ketene | C=C=O | C2H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl 2-acetyl-3-benzylamino-2-pentenedioate | C(C)(=O)C(C(=O)OC)=C(CC(=O)OC)NCC1=CC=CC=C1 | C16H19NO5
